US05204473
1-Cyclohexyloxy-4-(n-butylamino)-2,2,6,6-tetramethylpiperidine
The title compound, a colorless oil, is prepared from 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one and butylamine according to the procedure given in Example 38.

reactant | 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one | C1(CCCCC1)ON1C(CC(CC1(C)C)=O)(C)C | C15H27NO2
reactant | butylamine | C(CCC)N | C4H11N
product | 1-Cyclohexyloxy-4-(n-butylamino)-2,2,6,6-tetramethylpiperidine | C1(CCCCC1)ON1C(CC(CC1(C)C)NCCCC)(C)C | C19H38N2O
